US07906517B2
Tert-butyl 3-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-carbamoyloxy]-propionate (114 mg) is dissolved in a 4N-hydrochloric acid in ethyl acetate (5 ml), and the mixture is stirred at room temperature for 1 hour and 30 minutes. Thereto are added a saturated aqueous sodium bicarbonate solution and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=1:0→19:1) to give 3-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-carbamoyloxy]-propionic acid (81 mg). The resulting 3-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-carbamoyloxy]-propionic acid (81 mg) is dissolved in ethanol (1 ml), and thereto is added 1N-aqueous sodium hydroxide solution (115 μl) and concentrated under reduced pressure to give 3-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethylcarbamoyloxy]-propionic acid sodium salt (78 mg). MS (m/z): 722 [M−Na]−

reactant | 3-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-carbamoyloxy]-propionic acid | 81 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)N(C(=O)OCCC(=O)O)CC)C=C(C1)C(F)(F)F)(F)F | C31H30F9N5O5
reactant | sodium hydroxide | 115 μl | [OH-].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 3-[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethylcarbamoyloxy]-propionic acid sodium salt | 78 mg | [Na+].FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)N(C(=O)OCCC(=O)[O-])CC)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C31H30F9N5O5.Na/c1-2-45(28(48)50-8-5-26(46)47)25-4-3-21(29(32,33)34)13-20(25)18-44(27-41-15-24(16-42-27)43-6-9-49-10-7-43)17-19-11-22(30(35,36)37)14-23(12-19)31(38,39)40;/h3-4,11-16H,2,5-10,17-18H2,1H3,(H,46,47);/q;+1/p-1
